US08030438B2
(22) Synthesis of 4″,4″′-bis(dibutoxyphosphoryl)-[2,2′;5′,2″;5″,2″′;5″′,2″″;5″″,2″″′]-sexithiophene
At room temperature, 0.0643 g (0.220 mmols) of 2-iodobithiophene and 0.0046 g (0.00398 mmols) of commercially available tetrakistriphenylphosphine palladium were dissolved in toluene, to which 0.113 g (0.100 mmol) of 5,5′-bis(tributylstannyl)-4,3′-bis(dibutoxyphosphoryl)-[2,2′]-bithiophene and 0.0018 g (0.020 mmols) of commercially available copper(I) cyanide were added at room temperature. Thereafter, the reaction mixture was heated and stirred under reflux for 3 hours. After the reaction, the reaction mixture was cooled down to room temperature, to which a potassium fluoride aqueous solution was added, followed by stirring for 1 hour. Subsequently, the solid was removed by celite filtration and the filtrate was extracted with ethyl acetate. The organic phase was washed with a saturate saline solution and dried over anhydrous sodium sulfate. The solvent was removed by distilling off under reduced pressure, and the resulting crude product was purified with a PTLC plate (developed with ethyl acetate:hexane=1:10) to obtain the specified substance in the form of a red solid at a yield of 0.0345 g (yield: 39%).

reactant | 2-iodobithiophene | 0.220 mmols, 0.0643 g | IC1(SC=CC1)C=1SC=CC1 | C8H7IS2
reactant | 5,5′-bis(tributylstannyl)-4,3′-bis(dibutoxyphosphoryl)-[2,2′]-bithiophene | 0.100 mmol, 0.113 g | C(CCC)[Sn](C1=C(C=C(S1)C=1SC(=CC1P(=O)(OCCCC)OCCCC)[Sn](CCCC)(CCCC)CCCC)P(=O)(OCCCC)OCCCC)(CCCC)CCCC
reactant | copper(I) cyanide | [Cu]C#N
reactant | potassium fluoride | [F-].[K+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 4″,4″′-bis(dibutoxyphosphoryl)-[2,2′;5′,2″;5″,2″′;5″′,2″″;5″″,2″″′]-sexithiophene | yield: 39% | C(CCC)OP(=O)(OCCCC)C=1C=C(SC1C=1SC(=C(C1)P(=O)(OCCCC)OCCCC)C=1SC(=CC1)C=1SC=CC1)C1=CC=C(S1)C=1SC=CC1 | C40H48O6P2S6
